US07838499B2
Preparation of 4-bromo-1-chloro-2-(4-(2-cyclopropoxyethyl)benzyl)benzene (Intermediate CR)
To a stirred mixture of 4-bromo-1-chloro-2-(4-(2-(vinyloxy)ethyl)benzyl)benzene (100 mg, 0.27 mmol) and Et2Zn (0.68 mL, 0.68 mmol, 1.0 M in hexane) in dry ethyl ether (2 mL) was added diiodomethane (0.06 mL, 0.68 mmol) dropwise during 20 min at room temperature under argon. After stirring overnight, the reaction mixture was poured slowly into ice cold dilute hydrochloride solution with stirring. The mixture was extracted with ethyl acetate (3×10 mL). The combined organic layers were washed with water (10 mL) and then with brine (10 mL), and then dried over sodium sulfate. The residue was concentrated and purified by preparative TLC (eluent EA:PE=1:25) to obtain intermediate CR (86 mg) as a light yellow oil. 1H-NMR (CDCl3, 400 MHz): δ 7.32˜7.24 (m, 3H), 7.18 (d, 2H), 7.12 (d, 2H), 4.05 (s, 2H), 3.73 (t, J=7.2 Hz, 2H), 3.32˜3.29 (m, 1H), 2.88 (t, J=7.2 Hz, 2H), 0.57˜0.44 (m, 4H).

reactant | 4-bromo-1-chloro-2-(4-(2-(vinyloxy)ethyl)benzyl)benzene | 0.27 mmol, 100 mg | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)CCOC=C | C17H16BrClO
reactant | Et2Zn | 0.68 mmol, 1.0 M, 0.68 mL | [Zn](CC)CC
reactant | diiodomethane | 0.68 mmol, 0.06 mL | ICI | CH2I2
solvent | ethyl ether | 2 mL | C(C)OCC | C4H10O
product | 4-bromo-1-chloro-2-(4-(2-cyclopropoxyethyl)benzyl)benzene | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)CCOC1CC1 | C18H18BrClO
